US08614201B2
Intermediate 48: 1-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-ethanone
In a screw top flask 4-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidine (1.6 g, 6.1 mmol), tributyl-(1-ethoxy-vinyl)-stannane (1.8 g, 4.8 mmol) and trans-dichlorobis(triphenylphosphine)palladium(II) (212 mg, 0.30 mmol) were combined in DMF (10 mL). Under nitrogen the flask was sealed and heated to 80° C. for 12 hours. The reaction mixture was cooled to rt, concentrated, and purified by flash column chromatography using ethyl acetate-hexanes (0%-20%) to provide the desired product as a clear oil (1.3 g, 73%). MS (ESI): mass calcd. for C15H13F3N2O, 294.0; m/z found 295.1 [M+H]+. The resulting clear oil was diluted with THF (60 mL) and 2N HCl (10 mL) and stirred. After 12 h, the resulting solution was partitioned between saturated aqueous sodium bicarbonate (50 mL) and ethyl acetate (50 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organic phases were combined, dried with Na2SO4, filtered, and concentrated. The resulting residue was purified by flash column chromatography using ethyl acetate-hexanes (0%-20%) to provide the desired product as a clear oil (1.1 g, 93%). MS (ESI): mass calcd. for C13H9F3N2O, 266.0; m/z found 267.1 [M+H]+. 1H NMR (CDCl3) δ 9.45 (d, J=1.3 Hz, 1H), 8.37 (d, J=1.3 Hz, 1H), 8.31 (d, J=8.1 Hz, 2H), 7.82 (d, J=8.2 Hz, 2H), 2.81 (s, 3H).

reactant | 4-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidine | 6.1 mmol, 1.6 g | ClC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 4.8 mmol, 1.8 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.30 mmol, 212 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yl]-ethanone | 1.3 g, 73% | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)C(C)=O)(F)F | C13H9F3N2O
